* source PROIECT1_ENACHEVICTOR
Q_Q7         N343755 N343755 N344101 QBC846B 
R_R5         N342683 N343033  3.3k  
Q_Q8         N343871 N343755 N3440691 QBC846B 
Q_Q3         N343597 N343335 N343255 QBC856B 
Q_Q4         N343601 N343571 N343255 QBC856B 
R_R25         N343623 N342683  680  
Q_Q9         N343211 N343033 N342683 QBC856B 
R_R7         0 N344101  100  
R_R2         0 N343149  10k  
R_R20         0 N343605  10k  
X_P1         N343605 N343571 N343435 POT PARAMS: SET={SET} VALUE=5k
Q_Q2         N343149 N342997 N342683 QBC856B 
R_R8         0 N3440691  100  
X_P2         N343953 N343335 N343335 POT PARAMS: SET=0.21 VALUE=5k
Q_Q5         N343033 N343601 N343871 QBC846B 
Q_Q13         N343137 N343953 0 QBC846B 
R_R9         0 N343211  10k  
R_R10         N343755 N343623  1.5k  
R_R17         0 N343241  {LOAD}  
R_R16         N343953 0  1k  
R_R19         N343435 N343441  8.2k  
Q_Q10         N342683 N342945 N342797 QMJD31C 
R_R15         N343211 N343137  2.2k  
R_R21         0 N343605  10k  
Q_Q1         N343335 N343149 N342997 QBC856B 
Q_Q11         N342683 N343137 N342945 QBC846B 
R_R11         0 N343597  22k  
R_R1         N342997 N342683  100  
Q_Q6         N343037 N343597 N343871 QBC846B 
Q_Q12         N343137 N342797 N343241 QBC846B 
R_R24         0 N343361  1k  
X_D2         N342683 N343179 LED PARAMS: IS=2.6404e-27 RS=2  BV=5 IBV=10e-6    
+      
R_R22         N343361 N343179  820  
X_D3         N343241 N3438291 LED PARAMS: IS=2.6404e-27 RS=2  BV=5 IBV=10e-6   
+       
R_R13         N3429131 N342797  0.47  
V_V1         N342683 0 20Vdc
R_R14         N343241 N3429131  1  
R_R23         0 N3438291  820  
R_R12         0 N343601  22k  
R_R6         N342683 N343037  3.3k  
D_D1         0 N343335 BZX84-C2V7 
R_R18         N343441 N343241  220  
R_R4         N343255 N343027  22k  
R_R3         N343027 N342683  10k  
.PARAM  load=400 set=0.5
